US06576656B1
4-Chloro-6-(4-hydroxybutyl)-1-(2-diethylaminoethyl)-3-hydroxy-3-(2-naphthyl)oxindole
Under nitrogen stream, to a solution of 4-chloro-6-(4-hydroxy-1-butynyl)-1-(2-diethylaminoethyl)-3-hydroxy-3-(2-naphthyl)oxindole (8.6 mg, 0.0180 mmol) in methanol (1.5 mL) was added 10% palladium/carbon (4.0 mg). The mixture was stirred under hydrogen atmosphere at room temperature for one hour. After filtration with Celite, the solvent was removed to give the title compound (8.7 mg).

reactant | 4-chloro-6-(4-hydroxy-1-butynyl)-1-(2-diethylaminoethyl)-3-hydroxy-3-(2-naphthyl)oxindole | 0.0180 mmol, 8.6 mg | ClC1=C2C(C(N(C2=CC(=C1)C#CCCO)CCN(CC)CC)=O)(C1=CC2=CC=CC=C2C=C1)O | C28H29ClN2O3
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium/carbon | 4.0 mg | [Pd] | Pd
product | 4-Chloro-6-(4-hydroxybutyl)-1-(2-diethylaminoethyl)-3-hydroxy-3-(2-naphthyl)oxindole | 8.7 mg | ClC1=C2C(C(N(C2=CC(=C1)CCCCO)CCN(CC)CC)=O)(C1=CC2=CC=CC=C2C=C1)O | C28H33ClN2O3
